US08871756B2
2-[(2-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}ethyl)amino]ethanol
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 2-[(2-aminoethyl)amino]ethanol. MS obsd. (ESI+) [(M+H)+] 441, 1H NMR (400 MHz, CD3OD) δ ppm 7.94 (d, J=7.6 Hz, 1 H), 7.81 (d, J=6.8 Hz, 1 H), 7.61-7.57 (m, 2 H), 7.43-7.38 (m, 2 H), 7.24 (d, J=7.6 Hz, 1 H), 6.02 (s, 1 H), 5.12 (s, 2 H), 4.51 (brs, 2 H), 3.69 (t, J=5.2 Hz, 2 H), 3.55-3.52 (m, 2 H), 3.49 (t, J=6.0 Hz, 2 H), 3.01 (t, J=6.0 Hz, 2 H), 2.83 (t, J=5.6 Hz, 2 H), 2.38 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 2-[(2-aminoethyl)amino]ethanol | NCCNCCO | C4H12N2O
product | 2-[(2-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}ethyl)amino]ethanol | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCNCCO)C)=O | C23H28N4O3S
